US06432949B1
N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-(4-methylpiperazin-1-yl)pyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, 2-chloro-N-[2chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide was reacted with N-methylpiperazine to give the title compound in 69% yield; NMR Spectrum: (DMSOd6) 2.21 (s, 3H), 2.4 (m, 4H), 3.53 (m, 8H), 3.71 (m, 4H), 7.09 (m, 2H), 7.25 (d, 2H), 7.53 (d, 1H), 7.71 (d, 1H), 8.02 (s, 1H), 8.26 (t, 1H), 10.19 (s, 1H), 10.48 (s, 1H); Mass Spectrum: M+H+ 536.

reactant | 2-chloro-N-[2chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | ClC1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl | C22H19Cl2N5O3
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-(4-methylpiperazin-1-yl)pyridine-4-carboxamide | 69% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(=O)C1=CC(=NC=C1)N1CCN(CC1)C | C27H30ClN7O3
